US05736534
1-(6,7-Dimethoxy-quinazolin-4-yl)-6,7-dimethyl-2,3-dihydro-1H-indol-5-ol hydrochloride salt
Utilizing a procedure analogous to that described in Example 47 this product (with conversion to the HCl salt as outlined for Example 2) was prepared in 40% yield from 5-hydroxy-6,7-dimethyl-indoline (1.1 eq.), and 4-chloro-6,7-dimethoxy-quinazoline (1.0 eq) in N-methyl-pyrrolidinone. (M.P. 207°-209° C. (dec); LC-MS: 352 (MH+); anal. RP18-HPLC RT: 3.48 min.).

reactant | HCl | Cl | ClH
reactant | 5-hydroxy-6,7-dimethyl-indoline | 1.1 eq. | OC=1C=C2CCNC2=C(C1C)C | C10H13NO
reactant | 4-chloro-6,7-dimethoxy-quinazoline | 1.0 eq | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
solvent | N-methyl-pyrrolidinone | CN1C(CCC1)=O | C5H9NO
product | 1-(6,7-Dimethoxy-quinazolin-4-yl)-6,7-dimethyl-2,3-dihydro-1H-indol-5-ol hydrochloride salt | 40% yield | Cl.COC=1C=C2C(=NC=NC2=CC1OC)N1CCC2=CC(=C(C(=C12)C)C)O | InChI=1S/C20H21N3O3.ClH/c1-11-12(2)19-13(7-16(11)24)5-6-23(19)20-14-8-17(25-3)18(26-4)9-15(14)21-10-22-20;/h7-10,24H,5-6H2,1-4H3;1H
